US07728030B2
1-Cyclopentyl-5-iodo-1H-indazole (130c)
A mixture of 2-fluoro-5-iodobenzaldehyde (500 mg, 2 mmol), cyclopentylhydrazine (273 mg, 2 mmol), and cesium carbonate (1.91 g, 5 mmol) in NMP (5 ml) was stirred at 100° C. overnight. Then KOtBu (560 mg, 5 mmol) and DMF (10 ml) were added, and the mixture was stirred at 150° C. for 5 h. After cooling to r.t., the mixture was diluted with ethyl acetate (100 ml), and washed with water (3×50 ml), and dried. Evaporation of solvent afforded batch residue, which was dissolved in acetonitrile (50 ml), and the insoluble material was removed by filtration. Flash chromatography on silica gel (n-heptane/ethyl acetate) afforded yellow oil, 158 mg (25%).

reactant | 2-fluoro-5-iodobenzaldehyde | 2 mmol, 500 mg | FC1=C(C=O)C=C(C=C1)I | C7H4FIO
reactant | cyclopentylhydrazine | 2 mmol, 273 mg | C1(CCCC1)NN | C5H12N2
reactant | cesium carbonate | 5 mmol, 1.91 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | KOtBu | 5 mmol, 560 mg | CC(C)(C)[O-].[K+]
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-Cyclopentyl-5-iodo-1H-indazole | C1(CCCC1)N1N=CC2=CC(=CC=C12)I | C12H13IN2
